US07781438B2
Preparation of 2-(6-Chloro-3-dimethylaminomethyl-isoquinolin-5-yl)-acetamide
A solution of (6-chloro-3-dimethylaminomethyl-isoquinolin-5-yl)-acetic acid methyl ester (515 mg, 1.76 mmol) in a mixture of methanol (10 mL) and liquid ammonia (10 mL) was stirred for 16 h in an autoclave at 70° C. After careful evaporation of the ammonia, the remaining solvent was evaporated in vacuo to afford the title compound as a brown solid (410 mg, 1.48 mmol, 84%). MS (ES+): 278 (M(C14H1635ClN3O)+H)+.

reactant | (6-chloro-3-dimethylaminomethyl-isoquinolin-5-yl)-acetic acid methyl ester | 1.76 mmol, 515 mg | COC(CC1=C2C=C(N=CC2=CC=C1Cl)CN(C)C)=O | C15H17ClN2O2
reactant | ammonia | 10 mL | N | H3N
solvent | methanol | 10 mL | CO | CH4O
product | 2-(6-Chloro-3-dimethylaminomethyl-isoquinolin-5-yl)-acetamide | 1.48 mmol, 410 mg, 84% | ClC=1C(=C2C=C(N=CC2=CC1)CN(C)C)CC(=O)N | C14H16ClN3O
